US06124323
1-(2-(4-Hydroxyphenoxy)ethyl)-4-(2-picolyl)piperidine dihydrochloride
4-Cyano-1-(2-(4-methoxyphenoxy)ethyl)piperidine. To a stirred suspension of 1-(2-(4-methoxyphenoxy)ethyl)isonipecotamide (10.0 g, 35.9 mmol) in CHCl3 (80 mL) neat SOCl2 (30 mL) was added drop wise over 5 min. The resulting suspension was heated at reflux with stirring under N2 for 1 h. The reaction was allowed to cool to 25° C. and the volatile portion was removed to give a yellow syrup. The syrup was partitioned between CHCl3 and H2O (200 mL) each. The stirred yellow mixture was made basic by the addition of concd NH4OH (50 mL) to give a pink mixture. The layers were separated and the aqueous portion was extracted with CHCl3 (2×50 mL). The combined organic portion was washed with 10% NH4OH, H2O and brine (200 mL each), was filtered through cotton and the solvent was removed to give a red oil that partially solidified upon standing. The product was purified on silica gel (3.5×25 cm) with CHCl3 then 2% EtOH/98% CHCl3 elution to yield the title compound as an amber oil that solidified to a beige solid upon standing (6.8 g, 73%): mp 49-51° C.; 1H NMR (CDCl3) 1.78-2.03 (m, 4H), 2.40-2.54 (m, 2H), 2.58-2.84 (m, 5H), 3.76 (s, 3H), 4.03 (t, J=5.7 Hz, 2H), 6.83 (s, 4H).

reactant | 4-Cyano-1-(2-(4-methoxyphenoxy)ethyl)piperidine | C(#N)C1CCN(CC1)CCOC1=CC=C(C=C1)OC | C15H20N2O2
reactant | 1-(2-(4-methoxyphenoxy)ethyl)isonipecotamide | 35.9 mmol, 10.0 g | COC1=CC=C(OCCN2CCC(C(=O)N)CC2)C=C1 | C15H22N2O3
reactant | CHCl3 | 80 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-(4-Hydroxyphenoxy)ethyl)-4-(2-picolyl)piperidine dihydrochloride | Cl.Cl.OC1=CC=C(OCCN2CCC(CC2)CC2=NC=CC=C2)C=C1 | InChI=1S/C19H24N2O2.2ClH/c22-18-4-6-19(7-5-18)23-14-13-21-11-8-16(9-12-21)15-17-3-1-2-10-20-17;;/h1-7,10,16,22H,8-9,11-15H2;2*1H
